US07655666B2
2-Amino-5-pyridazin-3-yl-4-trifluoromethyl-benzoic acid
A solution of 3-(4-acetylamino-5-methoxycarbonyl-2-trifluoromethyl-phenyl)-4-chloro-6-ethoxy-5,6-dihydro-4H-pyridazine-1-carboxylic acid ethyl ester (400 mg, 0.81 mmol) in EtOH (20 mL) containing KOH (227 mg, 4.05 mmol) was heated to 110° C. for 18 h. Water (2 mL) was added and the reaction was heated to 110° C. for 8 h. The solution was poured onto ice/water/2 N aq HCl (2.5 mL) then extracted with EtOAc. The organic phase was washed with brine, dried (MgSO4) and the solvent was removed in vacuo to give the title compound (170 mg, 74%). API-ES: m/z 284.0 [M+H]+, rt 2.78 min.

reactant | 3-(4-acetylamino-5-methoxycarbonyl-2-trifluoromethyl-phenyl)-4-chloro-6-ethoxy-5,6-dihydro-4H-pyridazine-1-carboxylic acid ethyl ester | 0.81 mmol, 400 mg | C(C)OC(=O)N1N=C(C(CC1OCC)Cl)C1=C(C=C(C(=C1)C(=O)OC)NC(C)=O)C(F)(F)F | C20H23ClF3N3O6
reactant | KOH | 4.05 mmol, 227 mg | [OH-].[K+]
reactant | Water | 2 mL | O | H2O
solvent | EtOH | 20 mL | CCO | C2H6O
product | 2-Amino-5-pyridazin-3-yl-4-trifluoromethyl-benzoic acid | 170 mg, 74% | NC1=C(C(=O)O)C=C(C(=C1)C(F)(F)F)C=1N=NC=CC1 | C12H8F3N3O2
